* source LASER SIM1
D_D5         N08249 0 Dbreak 
V_V4         N08113 0 12
R_R4         N08249 N08205  1 TC=0,0 
V_V2         N08143 0 0Vdc
D_D6         N08843 0 Dbreak 
V_V6         N08707 0 12
V_Arduino         N08737 0 0Vdc
X_M6         N08707 N08737 N08843 RFP30N06LE/HA
X_M7         N08113 N08201 N08205 RFP30N06LE/HA
X_U1A         N08143 N08205 N08113 0 N08201 LM324
