* source TEST
V_V1         N03452 0 12
X_M3         N03452 N12087 N15132 RFP30N06LE/HA
R_R2         0 N11007  1 TC=0,0 
X_U1A         N05906 N11007 N03452 0 N12087 LM124
D_D2         N15132 N11007 Dbreak 
V_V2         N05906 0 12
